US09334279B2
To a 2 dram vial equipped with a stir bar and charged with 2-chloro-6-(4-isopropoxyphenyl)-4-(1H-pyrazol-1-yl)pyridine (41 mg, 0.13 mmol) was added CsF (199 mg, 1.31 mmol), then DMSO (0.7 mL). The vial was placed in a 140° C. heating block with vigorous stirring for 18 hours. The reaction mixture was transfered to a separatory funnel and was diluted with EtOAc (50 mL). The organic solution was washed twice with brine:water (25 mL:25 mL); dried over MgSO4; filtered; then concentrated in vacuo to afford 2-fluoro-6-(4-isopropoxyphenyl)-4-(1H-pyrazol-1-yl)pyridine as a yellow solid (25 mg, 63%). 1H-NMR (500 MHz, CDCl3) δ 8.07 (dd, J=2.6, 0.4 Hz, 1H), 8.03-7.99 (m, 2H), 7.95 (t, J=1.4 Hz, 1H), 7.81 (d, J=1.4 Hz, 1H), 7.09 (t, J=1.6 Hz, 1H), 7.01-6.97 (m, 2H), 6.57 (dd, J=2.7, 1.7 Hz, 1H), 4.65 (spt, J=6.1 Hz, 1H), 1.39 (d, J=6.1 Hz, 6H); MS: MS m/z 298.2 (M++1).

reactant | 2-chloro-6-(4-isopropoxyphenyl)-4-(1H-pyrazol-1-yl)pyridine | 0.13 mmol, 41 mg | ClC1=NC(=CC(=C1)N1N=CC=C1)C1=CC=C(C=C1)OC(C)C | C17H16ClN3O
reactant | CsF | 1.31 mmol, 199 mg | [F-].[Cs+]
reactant | DMSO | 0.7 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-fluoro-6-(4-isopropoxyphenyl)-4-(1H-pyrazol-1-yl)pyridine | 25 mg, 63% | FC1=NC(=CC(=C1)N1N=CC=C1)C1=CC=C(C=C1)OC(C)C | C17H16FN3O
